data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"BrC1=CC=C(I)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O-].OB(O)C1=CC=C2C=CC=CC2=C1.[Na+].[Na+].[Pd:2]|(1, 2)",33,6,reaction_47,USPTO_suzuki,train
"BrC1=CC=C(I)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:2])C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O-].OB(O)C1=CC=C2C=CC=CC2=C1.[Na+].[Na+]|(1, 2)",33,5,reaction_47,USPTO_suzuki,train
"BrC1=CC=[C:2]([I:3])C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:1][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O-].OB(O)C1=CC=C2C=CC=CC2=C1.[Na+].[Na+]|(1, 2);((2, 3), 1)",33,4,reaction_47,USPTO_suzuki,train
"BrC1=CC=[C]([Pd-2:3]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[I:4])C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O-:1].OB(O)C1=CC=C2C=CC=CC2=C1.[Na+:2].[Na+]|(1, 3);((3, 4), 2)",33,3,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O][Pd-2:2]([C]1=CC=C(Br)C=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O[B:1](O)[C:3]1=CC=C2C=CC=CC2=C1.[Na+].[Na][I]|(2, 3);((3, 1), 2)",33,2,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])[O:1][Pd-2:2]([C]1=CC=C(Br)C=C1)([C]1=CC=C2C=CC=CC2=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[B:3](O)O.[Na+].[Na][I]|((2, 1), 3);((3, 2), 2)",33,1,reaction_47,USPTO_suzuki,train
"BrC1=CC=[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC=C3C=CC=CC3=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.O=C([O-])OB(O)O.[Na+].[Na][I]|((2, 1), 3);((3, 2), 2)",33,0,reaction_47,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCB(CC)C1=CC=CN=C1.COC(=O)C1=CC=C(OC)C2=C1NC(CC1=CC=C(Br)C=C1)=N2.O=C([O-])[O-].[Na+].[Na+].[Pd:1]|(2, 1)",10,6,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCB(CC)C1=CC=CN=C1.COC(=O)C1=CC=C(OC)C2=C1NC(CC1=CC=C(Br)C=C1)=N2.O=C([O-])[O-].[Na+].[Na+]|(2, 1)",10,5,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCB(CC)C1=CC=CN=C1.COC(=O)C1=CC=C(OC)C2=C1NC(CC1=CC=[C:1]([Br:2])C=C1)=N2.O=C([O-])[O-].[Na+].[Na+]|(3, 1);((1, 2), 3)",10,4,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCB(CC)C1=CC=CN=C1.COC(=O)C1=CC=C(OC)C2=C1NC(CC1=CC=[C]([Pd-2:3]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[Br:4])C=C1)=N2.O=C([O-])[O-:1].[Na+:2].[Na+]|(1, 3);((3, 4), 2)",10,3,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CC[B:1](CC)[C:2]1=CC=CN=C1.COC(=O)C1=CC=C(OC)C2=C1NC(CC1=CC=[C]([Pd-2:3]([O]C(=O)[O-])([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C=C1)=N2.[Na+].[Na][Br]|(3, 2);((2, 1), 3)",10,2,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CC[B:1](CC)[Pd-2:2]([C]1=CC=C(CC2=NC3=C(OC)C=CC(C(=O)OC)=C3N2)C=C1)([C]1=CC=CN=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O:3]C(=O)[O-].[Na+].[Na][Br]|((2, 3), 1);((1, 2), 2)",10,1,reaction_34,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCB(CC)OC(=O)[O-].COC(=O)C1=CC=C(OC)C2=C1NC(CC1=CC=[C:1]([Pd-2:2]([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)([P+](C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)[C:3]3=CC=CN=C3)C=C1)=N2.[Na+].[Na][Br]|((2, 1), 3);((3, 2), 2)",10,0,reaction_34,USPTO_suzuki,train
